US05968875
A 50 mL 3-neck round bottom flask equipped with a magnetic stirring bar and N2 inlet was charged with (0.55 g, 0.0024 mol) 2-hydroxymethyl-α-methyoxyimino-N-methyl-benzeneacetamide and 10 mL anhydrous THF. To the reaction was added (0.14 g, 0.003mol) 60% NaH with stirring under nitrogen for 20 minutes. To the reaction was then added 3-chloro-6-methylsulphonylpicolinic acid: t-butyl ester (0.900 g, 0.003 mol) dissolved in 8 mL anhydrous THF, then 2 mL DMSO and stirring for three hours under nitrogen at room temperature. The mixture was then diluted with 20 mL ethyl acetate and 50 mL DI water and extracted four times with 20 mL portions of ethyl acetate. The combined organic extracts were washed three times with 50 mL portions DI water and twice with 25 mL portions brine to give the resulting product, α-(methoxyimino)-N-methyl-2-[[[5-chloro-6-(t-butoxycarbonyl)-2-pyridinyl]oxy]methyl]-benzeneacetamide, as an off-white oily solid after chromatography. M.P. 103-108° C.

reactant | 2-hydroxymethyl-α-methyoxyimino-N-methyl-benzeneacetamide | 0.0024 mol, 0.55 g | OCC1=C(C=CC=C1)C(C(=O)NC)=NOC | C11H14N2O3
reactant | NaH | 0.003mol, 0.14 g | [H-].[Na+]
reactant | 3-chloro-6-methylsulphonylpicolinic acid | ClC=1C(=NC(=CC1)S(=O)(=O)C)C(=O)O | C7H6ClNO4S
reactant | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | DI water | 50 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | α-(methoxyimino)-N-methyl-2-[[[5-chloro-6-(t-butoxycarbonyl)-2-pyridinyl]oxy]methyl]-benzeneacetamide | CON=C(C(=O)NC)C1=C(C=CC=C1)COC1=NC(=C(C=C1)Cl)C(=O)OC(C)(C)C | C21H24ClN3O5
